US08835472B2
2-Amino-3-(4-iodophenyl)-propan-1-ol
A mixture of 28.5 g (75.0 mmol) 2-amino-3-(4-iodophenyl)propanoate hydrochloride in 300 mL ethanol and 300 mL water is added to a mixture of 14.2 g (375 mmol) NaBH4 and 600 mL water (gas evolution!) and the resulting mixture is stirred at reflux for 2 h. The ethanol is evaporated in vacuo and the remaining aq. Phase is extracted with DCM (4×). The combined organic layers are dried with Na2SO4 and the solvent is removed in vacuo. The compound is used without further purification.

reactant | 2-amino-3-(4-iodophenyl)propanoate hydrochloride | 75.0 mmol, 28.5 g | Cl.NC(C(=O)O)CC1=CC=C(C=C1)I
reactant | NaBH4 | 375 mmol, 14.2 g | [BH4-].[Na+]
solvent | ethanol | 300 mL | C(C)O | C2H6O
solvent | water | 300 mL | O | H2O
solvent | water | 600 mL | O | H2O
product | 2-Amino-3-(4-iodophenyl)-propan-1-ol | NC(CO)CC1=CC=C(C=C1)I | C9H12INO
